US07939528B2
To an acetic acid solution (100 mL) containing 5,6-difluoro-1H-indene-1,2(3H)-dione 2-oxime (3.97 g, 20.2 mmol) in a Parr bottle was added 8 mL of concentrated HCl followed by 10% Pd/C (1.07 g). The solution was hydrogenated at 50 psi for 24 hours on a Parr hydrogenator. The heterogeneous solution was filtered through a bed of Celite with the celite being rinsed thoroughly with chloroform. The solvent was then removed in vacuo and the residual dark oil dissolved in water. The aqueous solution was then made basic with solid K2CO3. The organics were extracted with chloroform three times followed by drying over MgSO4. The solvent was removed in vacuo and the residual amber oil purified by column chromatography (10% MeOH/CH2Cl2) yielding 1.06 g (6.26 mmol) of 5,6-difluoro-2,3-dihydro-1H-inden-2-amine as a brown oil. 1H NMR (400 MHz, CDCl3) delta 6.95 (t, 2H, J=8.9 Hz), 3.83 (m, 1H), 3.10 (dd, 2H, J=15.8, 6.8 Hz), 2.60 (dd, 2H, J=15.8 & 5.0 Hz) ppm; (M+1) 170.1, 0.68 min (LC/MS method A). The oil was dissolved in diethyl ether (˜5 mL) and 4.0 mL of a 4.0 M dioxane solution of HCl (16.0 mmol) was added. The resulting precipitate was triturated with diethyl ether and collected by vacuum filtration yielding 795 mg (3.87 mmol, 19% yield) of 5,6-difluoro-2,3-dihydro-1H-inden-2-amine hydrochloride as an off-white solid.

reactant | 5,6-difluoro-1H-indene-1,2(3H)-dione 2-oxime | 20.2 mmol, 3.97 g | FC=1C=C2CC(C(C2=CC1F)=O)=NO | C9H5F2NO2
reactant | HCl | 8 mL | Cl | ClH
catalyst | Pd/C | 1.07 g | [Pd] | Pd
solvent | acetic acid | 100 mL | C(C)(=O)O | C2H4O2
product | 5,6-difluoro-2,3-dihydro-1H-inden-2-amine | 6.26 mmol, 1.06 g | FC=1C=C2CC(CC2=CC1F)N | C9H9F2N
